US05155130
The starting material is prepared as follows: A mixture of 6-hydroxy-2H-1-benzopyran-3-carboxaldehyde (2.50 g, 14.2 mmol) and potassium carbonate (3.62 g, 38.4 mmol) in 50 ml of DMF is treated with 4-trifluoromethylbenzyl bromide (3.73 g, 15.6 mmol). The reaction is allowed to proceed overnight at room temperature. The mixture is diluted with water and extracted three times with dichloromethane. The combined organic layers are washed once with water, dried (MgSO4), and evaporated. Purification by silica gel chromatography (20% ethyl acetate/hexane) yields 6-(4-trifluoromethylbenzyloxy)-2H-1-benzopyran-3-carboxaldehyde, m.p. 108°-110° C.

reactant | 6-hydroxy-2H-1-benzopyran-3-carboxaldehyde | 14.2 mmol, 2.50 g | OC=1C=CC2=C(C=C(CO2)C=O)C1 | C10H8O3
reactant | potassium carbonate | 38.4 mmol, 3.62 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-trifluoromethylbenzyl bromide | 15.6 mmol, 3.73 g | FC(C1=CC=C(CBr)C=C1)(F)F | C8H6BrF3
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 6-(4-trifluoromethylbenzyloxy)-2H-1-benzopyran-3-carboxaldehyde | FC(C1=CC=C(COC=2C=CC3=C(C=C(CO3)C=O)C2)C=C1)(F)F | C18H13F3O3
